US07138425B2
2-[3-[6-(4-Piperonylpiperazine-1-carbonyl)benzoxazol-2-yl]phenyl]-1,3-dioxo-2,3-dihydro-1H-isoindole-5-carboxylic acid
Prepared by the method of Example 76 g), from 2-[3-(6-chlorocarbonylbenzoxazol-2-yl)phenyl]-1,3-dioxo-2,3-dihydro-1H-isoindole-5-carboxylic acid benzyl ester (50 mg, 0.09 mmol) and 1-piperonylpiperazine (31 mg, 0.14 mmol) the title compound was obtained (32 mg, 54%). 1H NMR (DMSO) δ 8.33(dd, 1H), 8.25(m, 2H), 8.17(dt, 1H), 8.01(d, 1H), 7.79–7.65(m, 4H), 7.37(d, 1H), 6.77–6.72(m, 2H), 6.64(dd, 1H), 5.88(s, 2H) 3.45(s, 2H), 3.40–3.2(bm, 4H) 2.48–2.22(bm, 4H). MS 629.2 m/z (M−H)−.

reactant | 2-[3-(6-chlorocarbonylbenzoxazol-2-yl)phenyl]-1,3-dioxo-2,3-dihydro-1H-isoindole-5-carboxylic acid benzyl ester | 0.09 mmol, 50 mg | C(C1=CC=CC=C1)OC(=O)C=1C=C2C(N(C(C2=CC1)=O)C1=CC(=CC=C1)C=1OC2=C(N1)C=CC(=C2)C(=O)Cl)=O | C30H17ClN2O6
reactant | 1-piperonylpiperazine | 0.14 mmol, 31 mg | C(C1=CC=2OCOC2C=C1)N1CCNCC1 | C12H16N2O2
product | 2-[3-[6-(4-Piperonylpiperazine-1-carbonyl)benzoxazol-2-yl]phenyl]-1,3-dioxo-2,3-dihydro-1H-isoindole-5-carboxylic acid | C(C1=CC=2OCOC2C=C1)N1CCN(CC1)C(=O)C1=CC2=C(N=C(O2)C=2C=C(C=CC2)N2C(C3=CC=C(C=C3C2=O)C(=O)O)=O)C=C1 | C35H26N4O8
